### ISSUE TITLE
Calc command doesn't work

### ISSUE THREAD

**Issue by antonkov** [Paper-Proof/paperproof#27]
```
example {m n : ℤ} (h1 : m + 3 ≤ 2 * n - 1) (h2 : n ≤ 5) : m ≤ 6 := by
  have h3 := calc
      m + 3 ≤ 2 * n - 1 := by gcongr
      _ ≤ 2 * 5 - 1 := by gcongr
      _ = 9 := by norm_num
  clear h1 h2
  linarith
```

doesn't work

https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/paperproof.20discussion/near/397816033

**Comment by antonkov** [comment]
Fixed in https://github.com/Paper-Proof/paperproof/pull/29

https://youtu.be/xlMktqUK6h0
